US05753665
4-Trifluoromethylphenol (1.62 g) was added to a stirred suspension of sodium hydride (0.48 g) in dry 1,2-dimethoxyethane (35 ml). The mixture was stirred at room temperature for 30 minutes, then a solution of 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine (2.27 g, prepared in a similar manner to that described in Example 6 below) in dry 1,2-dimethoxyethane (85 ml) was added dropwise. The mixture was stirred at room temperature for 24 hours. The sodium bromide was removed from the mixture by filtration. The solvent was evaporated from the filtrate and the residue dissolved in dichloromethane and washed with 200 ml of a 5% aqueous solution of sodium hydroxide followed by water. The organic layer was dried over magnesium sulphate. Evaporation of the solvent afforded a crude product which was purified by column chromatography on silica gel using as eluent a mixture of petroleum ether and ethyl acetate (in the ratio 6:4 respectively), followed by recrystallisation from hexane, to give 7-[1-(4-trifluoromethylphenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine. Yield 1.1 g, (mp 100°-102° C.).

reactant | 4-Trifluoromethylphenol | 1.62 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine | BrC(C)C1=CC=NC=2N1N=CN2 | C7H7BrN4
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 85 ml | COCCOC | C4H10O2
product | 7-[1-(4-trifluoromethylphenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine | FC(C1=CC=C(OC(C)C2=CC=NC=3N2N=CN3)C=C1)(F)F | C14H11F3N4O
